US04789675
By a process similar to that of Reference Example 5, ethyl 3-hydroxy-4-nitrobenzoate was allowed to react with methyl 2,5-dibromovalerate to give methyl 5-bromo-2-(5-ethoxycarbonyl-2-nitrophenoxy)valerate as an oily product (yield: 80.2%). This product was subjected to catalytic reduction to obtain ethyl 2-(3-bromopropyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine-7-carboxylate, m.p. 118°-119° C. The yield was 90.7%.

reactant | ethyl 3-hydroxy-4-nitrobenzoate | OC=1C=C(C(=O)OCC)C=CC1[N+](=O)[O-] | C9H9NO5
reactant | methyl 2,5-dibromovalerate | BrC(C(=O)OC)CCCBr | C6H10Br2O2
product | methyl 5-bromo-2-(5-ethoxycarbonyl-2-nitrophenoxy)valerate | BrCCCC(C(=O)OC)OC1=C(C=CC(=C1)C(=O)OCC)[N+](=O)[O-] | C15H18BrNO7
